US09126981B2
Synthesis of tert-butyl 3-(2,2-diethoxyethylamino)propanoate (Compound IX-26)
According to the procedure described in the synthesis method of Compound IX-1, 2,2-diethoxyethanamine (5.82 ml, (40 mmol) was reacted with tert-butyl 3-bromopropionate (3.34 ml, 20 mmol) and the obtained residue was purified by Büch silica gel column chromatography (eluent: chloroform only) to obtain the title compound (1.33 g, 25%).

reactant | 2,2-diethoxyethanamine | C(C)OC(CN)OCC | C6H15NO2
reactant | tert-butyl 3-bromopropionate | 20 mmol, 3.34 ml | BrCCC(=O)OC(C)(C)C | C7H13BrO2
product | tert-butyl 3-(2,2-diethoxyethylamino)propanoate | 1.33 g, 25% | C(C)OC(CNCCC(=O)OC(C)(C)C)OCC | C13H27NO4
